US07786129B2
3-{4-[4-(3-Chlorophenyl)-piperazin-1-yl]-butyl}-3-isobutyl-7-methyl-1,3-dihydro-2H-indol-2-one monohydrochloride
The title compound is prepared according to process H by applying processing method 2 starting from 3-(4-chlorobutyl)-3-isobutyl-7-methyl-1,3-dihydro-2H-indol-2-one and 1-(3-chlorophenyl)-piperazine.

reactant | 3-(4-chlorobutyl)-3-isobutyl-7-methyl-1,3-dihydro-2H-indol-2-one | ClCCCCC1(C(NC2=C(C=CC=C12)C)=O)CC(C)C | C17H24ClNO
reactant | 1-(3-chlorophenyl)-piperazine | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
product | 3-{4-[4-(3-Chlorophenyl)-piperazin-1-yl]-butyl}-3-isobutyl-7-methyl-1,3-dihydro-2H-indol-2-one monohydrochloride | Cl.ClC=1C=C(C=CC1)N1CCN(CC1)CCCCC1(C(NC2=C(C=CC=C12)C)=O)CC(C)C | InChI=1S/C27H36ClN3O.ClH/c1-20(2)19-27(24-11-6-8-21(3)25(24)29-26(27)32)12-4-5-13-30-14-16-31(17-15-30)23-10-7-9-22(28)18-23;/h6-11,18,20H,4-5,12-17,19H2,1-3H3,(H,29,32);1H
